* My Operational Amplifiers

* Microchip MCP6001 1 MHz, Low-Power Op Amp
* https://www.microchip.com/en-us/product/MCP6002#
* The Modification from Bordodynov
.SUBCKT MCP6001 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* "Company") is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN "AS IS" CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* Macromodel for the MCP6001/2/4 op amp family:
*   MCP6001,MCP6002,MCP6004
*
* Revision History:
*   REV A: 21-Jun-02, Created model
*   REV B: 16-Jul-02, Improved output stage
*   REV C: 03-Jan-03, Added MCP6001
*   REV D: 19-Aug-06, Added over temperature, improved output stage,
*                     fixed overdrive recovery time
*   REV E: 27-Jul-07, Updated output impedance for better model stability w/cap load
*
* Recommendations:
*   Use PSPICE (other simulators may require translation)
*   For a quick, effective design, use a combination of: data sheet
*     specs, bench testing, and simulations with this macromodel
*   For high impedance circuits, set GMIN=100F in .OPTIONS
*
* Supported:
*   Typical performance for temperature range (-40 to 125) degrees Celsius
*   DC, AC, Transient, and Noise analyses.
*   Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*     open loop gain, voltage ranges, supply current, ... , etc.
*   Temperature effects for Ibias, Iquiescent, Iout short circuit
*   current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*   Some Variation in specs vs. Power Supply Voltage
*   Monte Carlo (Vos, Ib), Process variation
*   Distortion (detailed non-linear behavior)
*   Behavior outside normal operating region
*
* Input Stage
V10  3 10 -500M
R10 10 11 6.90K
R11 10 12 6.90K
C11 11 12 0.2p
C12 1  0 6.00P
E12 71 14 POLY(4) 20 0 21 0 26 0 27 0   1m 20.1 20.1 1 1
G12 1 0 62 0 1m
M12 11 14 15 15 NMI L=2U W=42U
M14 12  2 15 15 NMI L=2U W=42U
G14 2 0 62 0 1m
C14  2  0 6P
I15 15  4 50U
V16 16  4 -300M
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1n)(2m,1m)(3m,1))
V13  3 13 -300M
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1n)(2m,1m)(3m,1))
R70 1 0 20.6T
R71 2 0 20.6T
R72 1 2 20T
I80 1 2 0.5p
*
* Noise, PSRR, and CMRR
c2120 21 20 10f
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
G26  0 26 POLY(1) 3 4   110U -49U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0   -440U 39.7U 39.7U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 POLY(1) 12 11   0 1
R30 30  0 1K
G31  0 31 POLY(1) 3 4 86 5.25
R31 31  0 1 TC=2.8m
c3130 30 0 100f
GD31 30 31 TABLE {V(30,31)} ((-11,-1)(-10,-10n)(0,0)(1m,1000))
G32 32  0 POLY(1) 3 4 113.7 3.5
R32 32  0 1 TC=2.65m
GD32 30 32 TABLE {V(30,32)} ((-1m,-1000)(0,0)(10,10n)(11,1))
G33 0 33 30 0 1m
R33 33 0 1k
G34  0 34 33 0 425M
R34  34 0 1K
C34  34 0 74U
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 41.6P
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 100U
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(16,1n))(16.1,1))
G36 33 0 TABLE {V(35,4)} ((-16.1,-1)((-16,-1n)(0,0)(1,1n))
*
* Output Stage
cr80 50 0 100f     ;my
BG50 0 50 i=V(57,96)*2 rpar=1k ;my
R58 57  96 0.5
Cr58 57 96 2n    ;my
R57 57  0 750
Cr57 57 0 1p     ;my
C58  5  0 2P
G57  0 57 POLY(3) 3 0 4 0 35 0   0 0.67M 0.67M 1.5M
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 -0.7m 1 -40m
E56 56  0 POLY(2) 4 0 52 0 1.2m 1 -37m
R51 51 0 1k
R52 52 0 1k
BD51 51 0 v=uramp(v(50)) ;my
BD52 52 0 v=-uramp(v(50)) ;my
G53  3  0 POLY(1) 51 0  -49U 1M
G54  0  4 POLY(1) 52 0  -49U -1M
*
* Current Limit
G99 96 5 99 0 1
R98 0 98 1 TC=-2.8M,2.63U
G97 0 98 TABLE { V(96,5) } ((-11.0,-10.0M)(-1.00M,-9.9M)(0,0)(1.00M,9.9M) (11.0,10.0M))
E97 99 0 VALUE { V(98)*(V(3,4)*359M + 310M)}
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 100 TC 3.11M 4.51U
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)} ((0,0)(900M,0.0106U)(1.00,0.20U)(1.3,0.63U) (1.5,0.66U)(1.6,1.06U)(5.5,1.10U))
*
* Temp Sensitive offset voltage
I73 0 70 DC 1uA
R74 0 70 1 TC=2
E75 1 71 70 0 1
*
* Temp Sensistive IBias
I62 0 62 DC 1uA
R62 0 62 REXP 58.2u
* Voltage on R62 used for G12, G14 in input stage
*
* Models
.MODEL NMI NMOS
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DL  D   N=1 IS=1F
.MODEL DN1 D   IS=1P KF=146E-18 AF=1
.MODEL REXP RES TCE=10.1
.ENDS MCP6001


* TL081 High Slew Rate JFET-Input Operational Amplifier
* (C) Texas Instruments
* TL081 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL081    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS





* https://www.analog.com/en/products/ad8065.html
*AD8065 Macro-model
*Function:Amplifier
*
*Revision History:
*Rev.2.1 Jun 2015-ZZ
*Copyright 2015 by Analog Devices
*
*Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spicemodels/license
*for License Statement. Use of this model indicates your acceptance
*of the terms and provisions in the License Staement.
*
*Tested on MultSIm, SiMetrix(NGSpice), PSpice
*
*Not modeled: Distortion, PSRR, Overload Recovery,
*             Shutdown Turn On/Turn Off time
*
*Parameters modeled include:
*   Vos, Ibias, Input CM limits and Typ output voltge swing over full supply range,
*   Open Loop Gain & Phase, Slew Rate, Output current limits, Voltage & Current Noise over temp,
*   Capacitive load drive, Quiescent and dynamic supply currents,
*   Shut Down pin functionality where applicable,
*   Single supply & offset supply functionality.
*
*Node Assignments
*               Non-Inverting Input
*               |   Inverting Input
*               |   |   Positive supply
*               |   |   |   Negative supply
*               |   |   |   |   Output
*               |   |   |   |   |
.Subckt AD8065 100 101 102 103 104
*
***Power Supplies***
Rz1	102	1020	Rideal	1e-6
Rz2	103	1030	Rideal	1e-6
Ibias	1020	1030	dc	0.64e-3
DzPS	98	1020	diode
Iquies	1020	98	dc	5.76e-3
S1	98	1030	106	113	Switch
R1	1020	99	Rideal	1e7
R2	99	1030	Rideal	1e7
e1	111	110	1020	110	1
e2	110	112	110	1030	1
e3	110	0	99	0	1
*
*
***Inputs***
S2	1	100	106	113	Switch
S3	9	101	106	113	Switch
VOS	1	2	dc	400e-6
IbiasP	110	2	dc	2e-12
IbiasN	110	9	dc	2e-12
RinCMP	110	2	Rideal	10000e6
RinCMN	9	110	Rideal	10000e6
CinCMP	110	2	1.1e-12
CinCMN	9	110	1.1e-12
IOS	9	2	1e-12
RinDiff	9	2	Rideal	10000e3
CinDiff	9	2	4e-12
*
*
***Non-Inverting Input with Clamp***
g1	3	110	110	2	0.001
RInP	3	110	Rideal	1e3
RX1	40	3	Rideal	0.001
DInP	40	41	diode
DInN	42	40	diode
VinP	111	41	dc	3.06
VinN	42	112	dc	0.46
*
*
***Vnoise***
hVn	6	5	Vmeas1	707.10678
Vmeas1	20	110	DC	0
Vvn	21	110	dc	0.65
Dvn	21	20	DVnoisy
hVn1	6	7	Vmeas2	707.10678
Vmeas2	22	110	dc	0
Vvn1	23	110	dc	0.65
Dvn1	23	22	DVnoisy
*
*
***Inoise***
FnIN	9	110	Vmeas3	0.7071068
Vmeas3	51	110	dc	0
VnIN	50	110	dc	0.65
DnIN	50	51	DINnoisy
FnIN1	110	9	Vmeas4	0.7071068
Vmeas4	53	110	dc	0
VnIN1	52	110	dc	0.65
DnIN1	52	53	DINnoisy
*
FnIP	2	110	Vmeas5	0.7071068
Vmeas5	31	110	dc	0
VnIP	30	110	dc	0.65
DnIP	30	31	DIPnoisy
FnIP1	110	2	Vmeas6	0.7071068
Vmeas6	33	110	dc	0
VnIP1	32	110	dc	0.65
DnIP1	32	33	DIPnoisy
*
*
***CMRR***
RcmrrP	3	10	Rideal	1e12
RcmrrN	10	9	Rideal	1e12
g10	11	110	10	110	-1e-10
Lcmrr	11	12	1e-12
Rcmrr	12	110	Rideal	1e3
e4	5	3	11	110	1
*
*
***Power Down***
VPD	111	80	dc	2
VPD1	81	0	dc	1.5
RPD	111	106	Rideal	0.286e6
ePD	80	113	82	0	1
RDP1	82	0	Rideal	1e3
CPD	82	0	1e-10
S5	81	82	83	113	Switch
CDP1	83	0	1e-12
RPD2	106	83	1e6
*
*
***Feedback Pin***
*RF	105	104	Rideal	0.001
*
*
***VFB Stage***
g200	200	110	7	9	1
R200	200	110	Rideal	250
DzSlewP	201	200	DzSlewP
DzSlewN	201	110	DzSlewN
*
*
***Dominant Pole at 150 Hz***
g210	210	110	200	110	1.684e-6
R210	210	110	Rideal	1061.03e6
C210	210	110	1e-012
*
*
***Output Voltage Clamp-1***
RX2	60	210	Rideal	0.001
DzVoutP	61	60	DzVoutP
DzVoutN	60	62	DzVoutN
DVoutP	61	63	diode
DVoutN	64	62	diode
VoutP	65	63	dc	5.176
VoutN	64	66	dc	5.072
e60	65	110	111	110	1.038
e61	66	110	112	110	1.038
*
*
***Pole at 90MHz***
g220	220	110	210	110	0.001
R220	220	110	Rideal	1000
C220	220	110	1.7684e-12
*
***Pole at 1400MHz***
g230	230	110	220	110	0.001
R230	230	110	Rideal	1000
C230	230	110	0.1137e-12
*
***Pole at 1800MHz***
g240	240	110	230	110	0.001
R240	240	110	Rideal	1000
C240	240	110	0.0884e-12
*
***Zero at 1000MHz***
g245	245	110	240	110	0.001
R245	245	246	Rideal	1000
L245	246	110	0.1592e-6
*
***Buffer***
g250	250	110	245	110	0.001
R250	250	110	Rideal	1000
*
***Buffer***
g255	255	110	250	110	0.001
R255	255	110	Rideal	1000
*
***Buffer***
g260	260	110	255	110	0.001
R260	260	110	Rideal	1000
*
***Buffer***
g265	265	110	260	110	0.001
R265	265	110	Rideal	1000
*
***Buffer***
g270	270	110	265	110	0.001
R270	270	110	Rideal	1000
*
***Buffer***
e280	280	110	270	110	1
R280	280	285	Rideal	10
*
***Peak: f=210MHz, Zeta=0.999999999999999, Gain=2.3dB***
e290	290	110	285	110	1
R290	290	292	Rideal	10
L290	290	291	3.789e-9
C290	291	292	151.576e-12
R291	292	110	Rideal	32.985
e295	295	110	292	110	1.3032
*
*
***Output Stage***
g300	300	110	295	110	0.001
R300	300	110	Rideal	1000
e301	301	110	300	110	1
Rout	302	303	Rideal	 4.9
Lout	303	310	 7e-9
Cout	310	110	 46e-12
*
*
***Output Current Limit***
H1	301	304	Vsense1	100
Vsense1	301	302	dc	0
VIoutP	305	304	dc	8.336
VIoutN	304	306	dc	8.336
DIoutP	307	305	diode
DIoutN	306	307	diode
Rx3	307	300	Rideal	0.001
*
*
***Output Clamp-2***
VoutP1	111	73	dc	0.735
VoutN1	74	112	dc	0.715
DVoutP1	75	73	diode
DVoutN1	74	75	diode
RX4	75	310	Rideal	0.001
*
*
***Supply Currents***
FIoVcc	314	110	Vmeas8	1
Vmeas8	310	311	dc	0
R314	110	314	Rideal	1e9
DzOVcc	110	314	diode
DOVcc	102	314	diode
RX5	311	312	Rideal	0.001
FIoVee	315	110	Vmeas9	1
Vmeas9	312	313	dc	0
R315	315	110	Rideal	1e9
DzOVee	315	110	diode
DOVee	315	103	diode
*
*
***Output Switch***
S4	104	313	106	113	Switch
*
*
*** Common Models ***
.model	diode	d(bv=100)
.model	Switch	vswitch(Von=1.505,Voff=1.495,ron=0.001,roff=1e6)
.model	DzVoutP	D(BV=4.3)
.model	DzVoutN	D(BV=4.3)
.model	DzSlewP	D(BV=107.367)
.model	DzSlewN	D(BV=107.367)
.model	DVnoisy	D(IS=1.41e-15 KF=1.05e-15)
.model	DINnoisy	D(IS=3.81e-23 KF=0.00e0)
.model	DIPnoisy	D(IS=3.81e-23 KF=0.00e0)
.model	Rideal	res(T_ABS=-273)
*
.ends





* INA128
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA128
* Date: 08JUL2011
* Model Type: ALL IN ONE
* Simulator: TINA
* Simulator Version: 9.1.30.94 SF-TI
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS051B - OCTOBER 1995 - REVISED FEBRUARY 2005
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 :
* Release to Web
*
*****************************************************************************
* COMMENTS
* CONNECTIONS:            +
*                         |   -
*                         |   |   V+
*                         |   |   |   V-
*                         |   |   |   |   Out
*                         |   |   |   |   |   REF
*                         |   |   |   |   |   |   RG1
*                         |   |   |   |   |   |   |   RG2
*                         |   |   |   |   |   |   |   |
* PIN CONFIG FOR INA128   1   2   3   4   5   8   9  10
*****************************************************************************

.SUBCKT INA128         1   2   3   4   5   8   9  10

X1                     15  17   3   4  11   A1_128E
X2                     15  16   3   4  12   A2_128E
X3                     14  13   3   4   5   A3_128E
*
R1    11  13   40.0000K
R2    13   5   39.996K
R3    12  14   40.0000K
R4    14   8   40.0000K
CIN   13  14   4.0000PF
*
R1FB   9  11   25.000K
CC1   17  11   5.0000PF
R2FB  10  12   25.000K
CC2   16  12   5.0000PF
CG1    9   0   10.0000PF
CG2   10   0   8.0000PF
*
RCE   17   9   20G
*
I1     3  16  DC  20.00E-6
I2     3  17  DC  20.00E-6
IB1CAN 3  42  DC  40.00E-9
IB2CAN 3  46  DC  40.00E-9
IBAL   0   4  DC  6.5E-6
*
D1    15  17      DX
D2    15  16      DX
*
Q1    16  42  10  QX
Q2    17  46   9  QX
*
V1     3  15  DC  1.700

* INPUT PROTECTION
  RIN1 1   41 1K
  I11  41  42 .7MA
  S11  41  42 1 41 SP
  DI1  43  41 DX
  I12  4   43 DC .8MA
  S12  4   43 1 41 SM

  RIN2 2   45 1K
  I21  45  46 .7MA
  S21  45  46 2 45 SP
  DI2  47  45 DX
  I22  4   47 DC .8MA
  S22  4   47 2 45 SM

* Anti-inversion clamps *
  VSET1 3 40 DC 2.0
  QSET1 4 40 42 QY
  VSET2 3 44 DC 2.0
  QSET2 4 44 46 QY

.model sp vswitch(ron=10 roff=100E3 von=.7 voff=1)
.model sm vswitch(ron=10 roff=100E3 von=-.7 voff=-1)
.MODEL DX D(IS=1.0E-24)
.MODEL QX NPN(IS=800.0E-18 BF=500)
.MODEL QY PNP(IS=800.0E-18 BF=500)
.ENDS INA128
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A1_128E  1 2 3 4 5
*
  c1   11 12 2.887E-12
  c2    6  7 10.00E-12
  css  10 99 1.000E-30
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 79.58E6 -80E6 80E6 80E6 -80E6
  ga    6  0 11 12 1.257E-3
  gcm   0  6 10 99 125.7E-12
  iss   3 10 dc 50.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 795.8
  rd2   4 12 795.8
  ro1   8  5 10
  ro2   7 99 10
  rss  10 99 4.000E6
  vb    9  0 dc 0
  vc    3 53 dc 1.5
  ve   54  4 dc .9
  vlim  7  8 dc 0
  vlp  91  0 dc 14
  vln   0 92 dc 14

* OUTPUT SUPPLY MIRROR
  FQ3   0 20 POLY(1) VLIM 0 1
  DQ1  20 21 DX
  DQ2  22 20 DX
  VQ1  21  0 0
  VQ2  22  0 0
  FQ1   3  0 POLY(1) VQ1 120u 1
  FQ2   0  4 POLY(1) VQ2 120u -1
  RP    3  4 3.00E6

.model dx D(Is=800.0E-18)
.model jx PJF(Is=15.00E-12 Beta=31.58E-3 Vto=-1)
.ends

* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A2_128E  1 2 3 4 5
*
  c1   11 12 2.887E-12
  c2    6  7 10.00E-12
  css  10 99 1.000E-30
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 79.58E6 -80E6 80E6 80E6 -80E6
  ga    6  0 11 12 1.257E-3
  gcm   0  6 10 99 125.7E-12
  iss   3 10 dc 50.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 795.8
  rd2   4 12 795.8
  ro1   8  5 10
  ro2   7 99 10
  rss  10 99 4.000E6
  vb    9  0 dc 0
  vc    3 53 dc 1.5
  ve   54  4 dc .9
  vlim  7  8 dc 0
  vlp  91  0 dc 14
  vln   0 92 dc 14

* OUTPUT SUPPLY MIRROR
  FQ3   0 20 POLY(1) VLIM 0 1
  DQ1  20 21 DX
  DQ2  22 20 DX
  VQ1  21  0 0
  VQ2  22  0 0
  FQ1   3  0 POLY(1) VQ1 120u 1
  FQ2   0  4 POLY(1) VQ2 120u -1
  RP    3  4 3.00E6

.model dx D(Is=800.0E-18)
.model jx PJF(Is=15.00E-12 Beta=31.58E-3 Vto=-1)
.ends

* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A3_128E  1 2 3 4 5
*
  c1   11 12 2.730E-12
  c2    6  7 15.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 163.2E6 -160E6 160E6 160E6 -160E6
  ga    6  0 11 12 122.5E-6
  gcm   0  6 10 99 12.25E-12
  iee  10  4 dc 63.95E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 8.162E3
  rc2   3 12 8.162E3
  re1  13 10 7.327E3
  re2  14 10 7.327E3
  ree  10 99 3.127E6
  ro1   8  5 300
  ro2   7 99 300
  vb    9  0 dc 0
  vc    3 53 dc 1.500
  ve   54  4 dc 1.400
  vlim  7  8 dc 0
  vlp  91  0 dc 5
  vln   0 92 dc 14

*OUTPUT SUPPLY MIRROR
  FQ3   0 20 POLY(1) VLIM 0 1
  DQ1  20 21 DX
  DQ2  22 20 DX
  VQ1  21  0 0
  VQ2  22  0 0
  FQ1   3  0 POLY(1) VQ1 206.7E-6 1
  FQ2   0  4 POLY(1) VQ2 206.7E-6 -1
  RQ    3  4 1.87e6
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=318.8)
.ends
